US06472349B1
2-Amino-6-chloro-3-methylbenzamide
Using the procedure of Example A3, the reaction of 98.8 g (0.467 mol) of 6-chloro-3-methylisatoic anhydride in 330 ml of DMF with 42 ml (0.560 mol) of 25% strength aqueous ammonia solution in 140 ml of water and a further 110 ml of water gave 24 g (37% of theory) of the title compound as a yellowish powder of m.p. 149-152° C.

reactant | 6-chloro-3-methylisatoic anhydride | 0.467 mol, 98.8 g | ClC=1C=CC(=C2C1C(=O)OC(N2)=O)C | C9H6ClNO3
reactant | ammonia | N | H3N
solvent | DMF | 330 ml | CN(C)C=O | C3H7NO
solvent | water | 140 ml | O | H2O
solvent | water | 110 ml | O | H2O
product | 2-Amino-6-chloro-3-methylbenzamide | NC1=C(C(=O)N)C(=CC=C1C)Cl | C8H9ClN2O
